US06878704B2
Preparation 3 4-Quinolone-3-carboxylic acid
A suspension of ethyl 4-quinolone-3-carboxylate (900 mg) (Maybridge Chemical Co. Ltd) in dioxan (6 ml)/water (6 ml) was treated with 40% NaOH solution (8 ml) and refluxed 6 hours. The solution was cooled, acidified to pH2 with conc. HCl and the solid filtered off and dried under vacuum in the presence of P2O5 to provide the title compound (785 mg). MS (−ve ion chemical ionisation) m/z 188([M−H]−, 100%).

reactant | ethyl 4-quinolone-3-carboxylate | 900 mg | N1=CC(C(C2=CC=CC=C12)=O)C(=O)OCC | C12H11NO3
reactant | water | 6 ml | O | H2O
reactant | NaOH | 8 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | dioxan | 6 ml | O1CCOCC1 | C4H8O2
product | 4-Quinolone-3-carboxylic acid | 785 mg | N1=CC(C(C2=CC=CC=C12)=O)C(=O)O | C10H7NO3
